US05102781
4-[5-methoxy-3-methylbenzothiazolinylidene]-3-methyl-1-phenylpyrazolin-5-on
3-Methyl-1-phenylpyrazolin-5-one (1.74 g, 0.01 mol) was mixed with 3.97 g (0.01 mol) 5-methoxy-2-methylthio-3-methylbenzothiazolium tosylate in 25 ml methanol. Triethylamine (1.01 g, 0.01 mol) was added. The mixture was stirred for 3.5 hours, then filtered and washed with methanol. After drying the yield was 276 g (79%), mp 155°-156° C., λmax=386 (ε=25,000).

reactant | 3-Methyl-1-phenylpyrazolin-5-one | 0.01 mol, 1.74 g | CC=1NN(C(C1)=O)C1=CC=CC=C1 | C10H10N2O
reactant | 5-methoxy-2-methylthio-3-methylbenzothiazolium tosylate | 0.01 mol, 3.97 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.COC=1C=CC2=C([N+](=C(S2)SC)C)C1
reactant | Triethylamine | 0.01 mol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 25 ml | CO | CH4O
product | 4-[5-methoxy-3-methylbenzothiazolinylidene]-3-methyl-1-phenylpyrazolin-5-on | COC=1C=CC2=C(N(CS2=C2C(NN(C2=O)C2=CC=CC=C2)C)C)C1 | C19H21N3O2S
